US09193719B2
A suspension of 1-(5-((2-chloropyridin-4-yl)oxy)-6-methylpyridin-2-yl)-3-cyclopropyl-1H-1,2,4-triazol-5(4H)-one (0.285 g, 0.829 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.250 g, 1.202 mmol), Cs2CO3 (0.600 g, 1.842 mmol) and Pd(PPh3)4 (0.050 g, 0.043 mmol) in MeCN (20 mL) was heated at 100° C. under argon for 4 hours. The solvent from the reaction mixture was completely evaporated and the residue was partitioned between DCM (50 mL) and water (50 mL). The organic layer was separated and the aqueous layer saturated with solid sodium chloride and extracted with DCM (2×20 mL). The combined organics were dried, concentrated, and purified by silica gel chromatography (0-20% MeOH/DCM) to provide 3-cyclopropyl-1-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one (0.228 g, 66%) as a white solid. 1H NMR (400 MHz, dmso): δ 11.80 (s, 1H), 8.36 (d, J=5.7 Hz, 1H), 8.26 (s, 1H), 7.96 (s, 1H), 7.86 (d, J=8.8 Hz, 1H), 7.68 (d, J=8.8 Hz, 1H), 7.20 (d, J=2.4 Hz, 1H), 6.63 (dd, J=5.7, 2.4 Hz, 1H), 3.84 (s, 3H), 2.32 (s, 3H), 1.87 (tt, J=8.4, 5.1 Hz, 1H), 0.95 (m, 4H); MS (ESI) m/z: 390.2 (M+H+).

reactant | 1-(5-((2-chloropyridin-4-yl)oxy)-6-methylpyridin-2-yl)-3-cyclopropyl-1H-1,2,4-triazol-5(4H)-one | 0.829 mmol, 0.285 g | ClC1=NC=CC(=C1)OC=1C=CC(=NC1C)N1N=C(NC1=O)C1CC1 | C16H14ClN5O2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.202 mmol, 0.250 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | Cs2CO3 | 1.842 mmol, 0.600 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | 20 mL | CC#N | C2H3N
catalyst | Pd(PPh3)4 | 0.043 mmol, 0.050 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-cyclopropyl-1-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one | 0.228 g, 66% | C1(CC1)C1=NN(C(N1)=O)C1=NC(=C(C=C1)OC1=CC(=NC=C1)C=1C=NN(C1)C)C | C20H19N7O2
